US05296599
6-Aminoquinolyl-N-hydroxysuccinimidyl carbamate was synthesized according to the following procedure. Acetonitrile (500 ml, Baker analyzed HPLC grade) was distilled to azeotropically remove any water present. The first 50 ml of acetonitrile was discarded. 6-Aminoquinoline (1.5 g, 10 mmol, Aldrich Chemical Co.) was dissolved in 50 ml of acetonitrile and placed in an addition funnel. Di(N-succinimidyl) carbonate (DSC; 3 g., 12 mmol, Fluka Chemical Co.) was dissolved in 100 ml. of acetonitrile and heated to reflux with stirring. The aminoquinolino solution was added dropwise to the refluxing solution over a period of about 30 minutes.

reactant | 6-Aminoquinoline | 10 mmol, 1.5 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | Di(N-succinimidyl) carbonate | 12 mmol, 3 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-Aminoquinolyl-N-hydroxysuccinimidyl carbamate | C1CC(=O)N(C1=O)OC(=O)NC2=CC3=C(C=C2)N=CC=C3 | C14H11N3O4
